US07982071B2
Reaction of 2-bromo-5-(cyclohexylmethoxy)benzaldehyde with acetonitrile in the presence of LDA was conducted following the procedure given for Example 4 to give 3-(2-bromo-5-(cyclohexylmethoxy)phenyl)-3-hydroxypropanenitrile. Yield (0.49 g, 79%): 1H NMR (400 MHz, MeOD) δ 7.40 (d, J=8.8 Hz, 1H), 7.23 (d, J=2.8 Hz, 1H), 6.77 (dd, J=8.8, 2.4 Hz, 1H), 5.20 (dd, J=6.8, 4.4 Hz, 1H), 3.77 (d, J=6.8 Hz, 2H), 2.91 (dd, J=16.8, 4.0 Hz, 1H), 2.74 (dd, J=16.8, 6.8 Hz, 1H), 1.66-1.88 (m, 6H), 1.18-1.36 (m, 3H), 1.02-1.16 (m, 2H).

reactant | 2-bromo-5-(cyclohexylmethoxy)benzaldehyde | BrC1=C(C=O)C=C(C=C1)OCC1CCCCC1 | C14H17BrO2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(2-bromo-5-(cyclohexylmethoxy)phenyl)-3-hydroxypropanenitrile | BrC1=C(C=C(C=C1)OCC1CCCCC1)C(CC#N)O | C16H20BrNO2
